US08258134B2
A mixture of 3-cyclopentyl-2-[4-(3-fluoro-pyridin-2-yloxy)-6-oxo-6H-pyridazin-1-yl]-propionic acid methyl ester (3 g, 8.3 mmol) in a 6N aqueous hydrochloric acid solution (40 mL) was heated at reflux for 36 h. At this time, the resulting precipitate was collected by filtration and washed with water to afford 3-cyclopentyl-2-[4-(3-fluoro-pyridin-2-yloxy)-6-oxo-6H-pyridazin-1-yl]-propionic acid (2.1 g, 73%); LC-MS: tR=3.07 min, 348 [M+H]+. HPLC: tR=7.78 min, 97.01% at 214 nm, 97.79% at 254 nm. 1H NMR (300 MHz, DMSO-d6): δ 13.11 (s, 1H), δ 8.25 (s, 1H), 7.69-7.67 (m, 1H), 7.57-7.51 (m, 1H), 7.24 (s, 1H), 6.40-6.34 (m, 1H), 5.39 (dd, 1H, J=10.5 Hz, J=3.9 Hz), 2.27-2.17 (m, 1H), 2.05-1.97 (m, 1H), 1.71-1.44 (m, 7H), 1.19-1.07 (m, 2H).

reactant | 3-cyclopentyl-2-[4-(3-fluoro-pyridin-2-yloxy)-6-oxo-6H-pyridazin-1-yl]-propionic acid methyl ester | 8.3 mmol, 3 g | COC(C(CC1CCCC1)N1N=CC(=CC1=O)OC1=NC=CC=C1F)=O | C18H20FN3O4
solvent | hydrochloric acid | 6N, 40 mL | Cl | ClH
product | 3-cyclopentyl-2-[4-(3-fluoro-pyridin-2-yloxy)-6-oxo-6H-pyridazin-1-yl]-propionic acid | 2.1 g, 73% | C1(CCCC1)CC(C(=O)O)N1N=CC(=CC1=O)OC1=NC=CC=C1F | C17H18FN3O4
